US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{1′-[3-(2-morpholin-4-yl-ethoxycarbonyl)-propionyl]-4,4′-bipiperidinyl-1-yl}-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 9.2 from 100 mg (0.12 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[1′-(3-carboxy-propionyl)-4,4′-bipiperidinyl-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 17 μL (0.14 mmol) 2-morpholin-4-yl-ethanol.

reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[1′-(3-carboxy-propionyl)-4,4′-bipiperidinyl-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.12 mmol, 100 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)C(CCC(=O)O)=O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C39H48ClF3N6O7
reactant | 2-morpholin-4-yl-ethanol | 0.14 mmol, 17 μL | N1(CCOCC1)CCO | C6H13NO2
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{1′-[3-(2-morpholin-4-yl-ethoxycarbonyl)-propionyl]-4,4′-bipiperidinyl-1-yl}-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)C(CCC(=O)OCCN1CCOCC1)=O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C45H59ClF3N7O8
